US07087630B2
47a. Methyl (6Z)-7-hydroxy-7-(4-methylthiophenyl)-5-oxohept-6-enoate
Lithium diisopropylamide mono(tetrahydrofuran) in cyclohexane (1.5 M; 28 mL, 42 mmol) was added to a solution of 1-(4-methylthiophenyl)ethan-1-one (5.16 g, 31 mmol) in THF (120 mL) and stirred for 30 minutes at −72° C. A solution of methyl 4-(chloroformyl)butyrate (1.78 g, 10.8 mmol) was added to the above solution and stirred for 30 minutes and then warmed slowly from the −72° C. to −45° C. To the reaction mixture was added 3N HCl (50 mL) and extracted with ethyl acetate (100 mL×3). The combined organic layers were washed with water, brine, dried over Na2SO4, filtered and evaporated. Trituration of the residue with diethyl ether/hexane gave a mixture of the title compound and starting material (˜30% yield) as a solid (2.42 g). The crude material was used in the next step without purification. A small quantity of pure sample was obtained at the beginning of the trituation. Mp. 92–93° C. 1H NMR (CDCl3) δ 15.1 (br, 1H), 7.79 (d, J=8.6 Hz, 2H), 7.27 (d, J=8.6 Hz, 2H), 6.13 (s, 1H), 3.69 (s, 3H), 2.52 (s, 3H), 2.48 (t, J=7.4 Hz, 2H), 2.42 (t, J=7.4 Hz, 2H), 2.02 (m, 2H). 13C NMR (CDCl3) δ 194.8, 183.0, 173.4, 144.9, 131.0, 127.3, 125.2, 95.6, 51.5, 37.9, 33.1, 20.8, 14.8.

reactant | Lithium diisopropylamide mono(tetrahydrofuran) | O1CCCC1.C(C)(C)[N-]C(C)C.[Li+]
reactant | cyclohexane | 42 mmol, 1.5 M, 28 mL | C1CCCCC1 | C6H12
reactant | 1-(4-methylthiophenyl)ethan-1-one | 31 mmol, 5.16 g | CSC1=CC=C(C=C1)C(C)=O | C9H10OS
reactant | methyl 4-(chloroformyl)butyrate | 10.8 mmol, 1.78 g | ClC(=O)CCCC(=O)OC | C6H9ClO3
reactant | HCl | 3N, 50 mL | Cl | ClH
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | Methyl (6Z)-7-hydroxy-7-(4-methylthiophenyl)-5-oxohept-6-enoate | O\C(=C/C(CCCC(=O)OC)=O)\C1=CC=C(C=C1)SC | C15H18O4S
